US08202873B2
{4-[4-(5-Methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol hydrochloride
Combine 3′-chloro-4-(5-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (0.290 g, 0.786 mmol), potassium carbonate (0.261 g, 1.89 mmol), 4-(hydroxymethyl)phenylboronic acid (0.143 g, 0.943 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.009 g, 0.008 mmol) in N,N-dimethylacetamide (1.6 mL). Add water (790 μL), and reflux reaction for 18 hr. Add 4-(hydroxymethyl)phenylboronic acid (0.072 g, 0.471 mmol) and tetrakis(triphenyl-phosphine)palladium(0) (0.009 g, 0.008 mmol) and heat to 110° C. for 3.5 hr. Add DCM and wash with water. Extract water layer three times with DCM. Dry combined organics (magnesium sulfate) and purify (silica gel chromatography, eluting with 50:50 to 100:0 ethyl acetate:hexanes then 10:90 methanol:ethyl acetate), to give the free base of the title compound (198 mg, 57%). Dissolve the free base (0.195 g, 0.443 mmol) in acetonitrile (531 μL) and add aq. 1 N HCl solution (531 μL, 0.531 mmol). Shake for 15 min. at ambient temperature. Freeze dry to give the title compound (208 mg, 98%). MS (ES): m/z=441 [M+H]+.

reactant | 3′-chloro-4-(5-methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.786 mmol, 0.290 g | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C1=CC=CC=C1 | C19H21ClN6
reactant | potassium carbonate | 1.89 mmol, 0.261 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(hydroxymethyl)phenylboronic acid | 0.943 mmol, 0.143 g | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | water | 790 μL | O | H2O
reactant | 4-(hydroxymethyl)phenylboronic acid | 0.471 mmol, 0.072 g | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | N,N-dimethylacetamide | 1.6 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.008 mmol, 0.009 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {4-[4-(5-Methyl-1-phenyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-3′-yl]-phenyl}-methanol hydrochloride | 198 mg, 57% | Cl.CC1=C(C=NN1C1=CC=CC=C1)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CO | InChI=1S/C26H28N6O.ClH/c1-20-23(17-29-32(20)24-5-3-2-4-6-24)18-30-13-15-31(16-14-30)26-25(27-11-12-28-26)22-9-7-21(19-33)8-10-22;/h2-12,17,33H,13-16,18-19H2,1H3;1H
